### PR TITLE
M Types for Set-based Polynomial Functors

### PR DESCRIPTION
**Pull request by AextraT**
This contains the results of my internship under the supervision of Ralph Matthes.
Content :
- Set truncation as defined by @nmvdw (in a Zulip post), now in MoreFoundations/Sets
- "Equivalence" between being a final coalgebra in UU and in HSET in Induction/M/MWithSets.
- Proof that polynomial functors in sets are omega-continuous in CategoryTheory/Chains/OmegaContPolynomialFunctors.
- Proof that when the polynomial functor is defined with sets, all final coalgebras are sets
  and construction of such coalgebras using CoAdamek in Induction/M/FinalCoalgebraHSET.
- Refinement of ComputationalM in the case of sets in Induction/M/ComputationalMWithSets.
- Example of potentially infinite boolean trees labeled with booleans in Induction/M/BinaryBooleanTrees.
The files also come with header information.

### CODE REVIEW

File: UniMath/MoreFoundations/Sets.v [hunk 1]
```diff
@@ -497,3 +498,98 @@ Proof.
...
   apply idpath.
 Qed.
+
+(** ** Set truncation
+    Based on a post by Niels van der Weide on June 13, 2023
+ *)
+
+Local Close Scope logic.
+
+Definition path_eqrel
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Sets.v:539]: It might be good to factor out a lemma saying that the relation is an equivalence relation, and make that  `Qed`

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 2]
```diff
@@ -0,0 +1,285 @@
...
+
+  Local Definition F' := MWithSets.F' B.
+
+  Lemma comp_right_eq_hset
+    {X Y Z : UU}
+    {f g : X -> Y}
+    (h : Y -> Z)
+    (p : f = g)
+    : h ∘ f = h ∘ g.
+  Proof.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v:43]: Would the following proof also work:
```
induction p.
apply idpath.
```
A shorter one would be
```
maponpaths (fun k -> _ ∘ k) p.
```

If these work, is there a reason for choosing the longer one?

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 3]
```diff
@@ -0,0 +1,285 @@
...
+    : (λ b, f (pr2 (g1 x) (transportf (λ φ, pr1hSet (B (φ x))) q1 b))) = (λ b, pr2 (g2 x) (transportf (λ φ, pr1hSet (B (φ x))) q2 b)).
+  Proof.
+    induction p.
+    cbn.
+    assert (r : q1 = q2).
+    { apply (setproperty (SET ⟦ X, A ⟧,, isaset_forall_hSet (pr1hSet X) (λ _, A)) (pr1 ∘ g0) (pr1 ∘ g1)).
+    }
+    induction r.
+    apply idpath.
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Qed.
```

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 4]
```diff
@@ -0,0 +1,285 @@
...
+
+  Lemma pathtozero_cone
+    {c0 : SET}
+    {c : cochain SET}
+    (cc0 : Graphs.Limits.cone (Diagrams.mapdiagram F' c) c0)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]: It would be good to import these files so that you don't need to qualify your imports.

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 5]
```diff
@@ -0,0 +1,285 @@
...
+    (v : nat)
+    : pr1 ∘ (pr1 cc0 0) = pr1 ∘ (pr1 cc0 v).
+  Proof.
+    induction v.
+    - apply idpath.
+    - symmetry.
+      etrans.
+      + apply (comp_right_eq_hset (λ x : pr1hSet (F' (Diagrams.dob c v)), pr1 x) (pr2 cc0 (S v) v (idpath (S v)))).
+      + symmetry. apply IHv.
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Qed.
```

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 6]
```diff
@@ -0,0 +1,285 @@
...
+      simpl.
+      intros u v e.
+      induction e.
+      set (p := pullback_cone_edge x (pr2 cc0 (S v) v (idpath (S v))) (pathtozero_cone cc0 (S v)) (pathtozero_cone cc0 v)).
+      apply p.
+    }
+    exact (f,, p).
+  Defined.
+
+  Lemma Exists_fun_mapdiagram
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Lemma exists_fun_mapdiagram
```
In UniMath, identifiers (usually) start with lower case letters

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 7]
```diff
@@ -0,0 +1,285 @@
...
+    {h : pr1hSet (B (φ2 x)) -> Y}
+    (q : φ1 = φ2)
+    (p : g ∘ f = λ b, h (transportf (λ ψ, pr1hSet (B (ψ x))) q b))
+    : transportf (λ a, pr1hSet (B a) -> Y) (toforallpaths _ _ _ q x) (g ∘ f) = h.
+  Proof.
+    induction q.
+    apply p.
+  Defined.
+
+  Lemma Exists_mor_mapdiagram
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Lemma exists_mor_mapdiagram
```

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 8]
```diff
@@ -0,0 +1,285 @@
...
+    {c : cochain SET}
+    {L : SET}
+    {cc : Graphs.Limits.cone c L}
+    (c_limcone : Graphs.Limits.isLimCone c L cc)
+    (c0 : SET)
+    (cc0 : Graphs.Limits.cone (Diagrams.mapdiagram F' c) c0)
+    : ∑ f : SET ⟦ c0, F' L ⟧, Limits.is_cone_mor cc0 (Limits.mapcone F' c cc) f.
+  Proof.
+    set (f := Exists_fun_mapdiagram c_limcone c0 cc0).
+    assert (p : Limits.is_cone_mor cc0 (Limits.mapcone F' c cc) f).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]: It would be good to factor this out and make it `Qed`

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 9]
```diff
@@ -0,0 +1,285 @@
...
+    (h1 h2 : SET⟦ X, A ⟧)
+    (f : SET ⟦ B (h2 x), Y ⟧)
+    (g : SET ⟦ Y, Z ⟧ )
+    (q : h1 = h2)
+    : g ∘ (transportf (λ a, SET ⟦ B a, Y ⟧) (pathsinv0 (toforallpaths _ _ _ q x)) f) = λ b, g (f (transportf (λ φ, pr1hSet (B (φ x))) q b)).
+  Proof.
+    induction q.
+    cbn.
+    apply idpath.
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Qed.
```

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 10]
```diff
@@ -0,0 +1,285 @@
...
+  Proof.
+    induction p.
+    cbn.
+    set (q'x := toforallpaths _ _ _ q' x).
+    cbn in q'x.
+    set (q'x' := pathsinv0 q'x).
+    assert (r : q'x' = q) by apply (setproperty A).
+    induction r.
+    apply (move_proof (pr1 ∘ h0) (pr1 ∘ # F' g ∘ f) (pr2 (f x)) g q').
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Qed.
```

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 11]
```diff
@@ -0,0 +1,285 @@
...
+    : Limits.is_cone_mor (pullback_cone x cc0) cc (transportf _ p (pr2 (f x))).
+  Proof.
+    set (ccx := pullback_cone x cc0).
+    cbn.
+    unfold Limits.is_cone_mor.
+    intro v.
+    unfold Limits.is_cone_mor in pf.
+    unfold Graphs.Limits.coneOut in pf.
+    apply (proj_is_cone_mor_point x (pr1 cc0 0) (pr1 cc0 v) (pf v) p (pathtozero_cone cc0 v)).
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Qed.
```

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v [hunk 12]
```diff
@@ -0,0 +1,285 @@
...
+      cbn in pf'.
+      apply p.
+    - cbn.
+      set (a := pr1 (pr1 cc0 0 x) : pr1hSet A).
+      set (cx := B a).
+      set (ccx := pullback_cone x cc0).
+      set (f'2 := transportf _ p (pr2 (f' x)) : SET ⟦ cx, L ⟧).
+      set (f'2_cone_mor := proj_is_cone_mor f' pf' : Limits.is_cone_mor ccx cc f'2).
+      apply (maponpaths (λ z, pr1 z) (pr2 (c_limcone cx ccx) (f'2,, f'2_cone_mor))).
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v]:
```suggestion
  Qed.
```

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v [hunk 13]
```diff
@@ -0,0 +1,180 @@
+(**
+    An alternative definition of coalgebra to have a precategory
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v]: I do not understand this comment

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v [hunk 14]
```diff
@@ -0,0 +1,180 @@
...
+Proof.
+  intro Hyp.
+  apply (factor_through_squash (pr2 P) Hyp).
+  exact (pr2 f x).
+Qed.
+
+Definition coalgebra_homo_id (X : coalgebra) : coalgebra_homo X X.
+Proof.
+  exists (identity _).
+  intro x.
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v]: This part can be made `abstract`

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v [hunk 15]
```diff
@@ -0,0 +1,180 @@
...
+  rewrite functor_id.
+  rewrite id_right.
+  exact (hinhpr (idpath (coalgebra_mor X x))).
+Defined.
+
+Definition coalgebra_homo_comp (X Y Z : coalgebra) (f : coalgebra_homo X Y)
+           (g : coalgebra_homo Y Z) : coalgebra_homo X Z.
+Proof.
+  exists (f · g).
+  intro x.
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v]: This part can be made `abstract` (or put in a lemma)

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v [hunk 16]
```diff
@@ -0,0 +1,180 @@
...
+  rewrite <- assoc.
+  apply (coalgebra_homo_commutes g (pr1 f x)).
+  intro Hypg.
+  assert (p3 : (f · (coalgebra_mor Y · # F g)) x = (coalgebra_mor Y · # F g) (pr1 f x)) by apply idpath.
+  rewrite p3.
+  rewrite Hypg.
+  assert (p4 : (g · coalgebra_mor Z) (pr1 f x) = (f · (g · coalgebra_mor Z)) x) by apply idpath.
+  rewrite p4.
+  rewrite assoc.
+  exact (hinhpr (idpath ((f · g · coalgebra_mor Z) x))).
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v]: How about
```suggestion
  exact (hinhpr (idpath _)).
```
This is a bit simpler to write/read

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v [hunk 17]
```diff
@@ -0,0 +1,180 @@
...
+      * apply funextsec.
+        intro.
+        apply isapropishinh.
+    + intros.
+      use total2_paths_f.
+      * apply idpath.
+      * apply funextsec.
+        intro.
+        apply isapropishinh.
+Defined.
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v]:
```suggestion
Qed.
```

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v [hunk 18]
```diff
@@ -0,0 +1,180 @@
...
+
+Definition CoAlg_precategory (F : functor HSET HSET) : precategory
+  := make_precategory (CoAlg_precategory_data F) (CoAlg_is_precategory F).
+
+(* Note that this definition is only made to prove the adjunction
+   in MWithSets which only intends to be an illustration, but is
+   also equivalent to the original definition as show here : *)
+
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_HSET.v]: The imports can be moved to the beginning of the file

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_UU.v [hunk 19]
```diff
@@ -0,0 +1,139 @@
...
+      * apply funextsec.
+        intro.
+        apply isapropishinh.
+    + intros.
+      use total2_paths_f.
+      * apply idpath.
+      * apply funextsec.
+        intro.
+        apply isapropishinh.
+Defined.
```
Comment (nmvdw) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_UU.v]:
```suggestion
Qed.
```

File: UniMath/Induction/M/ComputationalMWithSets.v [hunk 20]
```diff
@@ -0,0 +1,68 @@
...
+Require Import UniMath.CategoryTheory.Categories.Type.Core.
+Require Import UniMath.CategoryTheory.Core.Categories.
+Require Import UniMath.CategoryTheory.Core.Functors.
+Require Import UniMath.CategoryTheory.Categories.HSET.All.
+Require Import UniMath.CategoryTheory.Limits.Terminal.
+Require UniMath.CategoryTheory.FunctorCoalgebras.
+
+Local Open Scope cat.
+
+Section Upstream.
```
Comment (nmvdw) [inline UniMath/Induction/M/ComputationalMWithSets.v]: Why are almost all definitions in this section local?

File: UniMath/Induction/M/ComputationalMWithSets.v [hunk 21]
```diff
@@ -0,0 +1,68 @@
...
+Require Import UniMath.Induction.M.Core.
+Require Import UniMath.Induction.M.ComputationalM.
+Require Import UniMath.Induction.M.MWithSets.
+
+Require Import UniMath.CategoryTheory.Categories.Type.Core.
+Require Import UniMath.CategoryTheory.Core.Categories.
+Require Import UniMath.CategoryTheory.Core.Functors.
+Require Import UniMath.CategoryTheory.Categories.HSET.All.
+Require Import UniMath.CategoryTheory.Limits.Terminal.
+Require UniMath.CategoryTheory.FunctorCoalgebras.
```
Comment (nmvdw) [inline UniMath/Induction/M/ComputationalMWithSets.v:26]:
```suggestion
Require Import UniMath.CategoryTheory.FunctorCoalgebras.
```

File: UniMath/Induction/M/ComputationalMWithSets.v [hunk 22]
```diff
@@ -0,0 +1,68 @@
...
+Local Open Scope cat.
+
+Section Upstream.
+
+  Context {A : ob HSET} (B : pr1hSet A → ob HSET).
+
+  Local Definition F := MWithSets.F B.
+  Local Definition F' := MWithSets.F' B.
+
+  Context (C0' : UniMath.CategoryTheory.FunctorCoalgebras.coalgebra_ob F') (C0'_is_final : isTerminal (UniMath.CategoryTheory.FunctorCoalgebras.CoAlg_category F') C0').
```
Comment (nmvdw) [inline UniMath/Induction/M/ComputationalMWithSets.v]: These don't have to be qualified, right?

File: UniMath/Induction/M/FinalCoalgebraHSET.v [hunk 23]
```diff
@@ -0,0 +1,72 @@
...
+Local Open Scope cat.
+Local Open Scope functions.
+
+Section MTypesAreSets.
+
+  Context {A : ob HSET} (B : pr1hSet A → ob HSET).
+
+  Local Definition F := MWithSets.F B.
+
+  Lemma SET_terminal : Terminal SET.
```
Comment (nmvdw) [inline UniMath/Induction/M/FinalCoalgebraHSET.v]: This is the same as https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Categories/HSET/Limits.v#L197, right?

File: UniMath/Induction/M/FinalCoalgebraHSET.v [hunk 24]
```diff
@@ -0,0 +1,72 @@
...
+  Proof.
+    set (C1'_t := GetMType_HSET).
+    unfold Terminal in C1'_t.
+    destruct C1'_t as [C1' C1'_isterm].
+    set (C1 := MWithSets.C0 B C1').
+    set (C1_isfinal := C0_is_final B C1' C1'_isterm : is_final C1).
+    set (p := M_carriers_eq (pr1hSet A) (λ a, pr1hSet (B a)) (C1,, C1_isfinal) (C,, C_isfinal) : pr1 C1 = pr1 C).
+    set (C1_isaset := pr21 C1' : isaset (pr1 C1)).
+    apply (transportf (λ c, isaset c) p C1_isaset).
+  Defined.
```
Comment (nmvdw) [inline UniMath/Induction/M/FinalCoalgebraHSET.v]:
```suggestion
  Qed.
```

File: UniMath/Induction/M/MWithSets.v [hunk 25]
```diff
@@ -0,0 +1,415 @@
...
+    use tpair.
+    - exact (coalgebra_ob F C ,, Hyp).
+    - exact (coalgebra_mor F C).
+  Defined.
+
+  Section ToFinalInHSET.
+
+  Context (C0 : coalgebra F).
+
+  Local Definition c0 : type_precat := coalgebra_ob F C0.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v]: A `Let` would be more suitable here

File: UniMath/Induction/M/MWithSets.v [hunk 26]
```diff
@@ -0,0 +1,415 @@
...
+  End IngredientsOfAnAdjunction.
+
+  Section FromFinalInHSET.
+
+    Context (C0' : FunctorCoalgebras.coalgebra_ob F').
+    Context (C0'_is_final : isTerminal (FunctorCoalgebras.CoAlg_category F') C0').
+
+    Definition C0 : coalgebra F := FromCoalgInHSET C0'.
+
+  Lemma C0_is_final : is_final C0.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v]: Indenting

File: UniMath/Induction/M/MWithSets.v [hunk 27]
```diff
@@ -0,0 +1,415 @@
...
+          {
+            apply idpath.
+          }
+          apply p421.
+        * apply (toforallpaths _ φ' (pr1 f) p411).
+      + (* show_id_type.
+           unfold is_coalgebra_homo in TYPE. *)
+        set (is_set := isaset_forall_hSet c (λ _, F' (pr1 C0'))).
+        apply is_set.
+  Defined.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v]: Could a part of this proof be factored out and made opaque?

File: UniMath/Induction/M/MWithSets.v [hunk 28]
```diff
@@ -0,0 +1,415 @@
...
+        + apply idpath.
+        + use funextsec. intro.
+          apply isapropishinh.
+      - unfold functor_compax.
+        intros.
+        use total2_paths_f.
+        + apply idpath.
+        + use funextsec. intro.
+          apply isapropishinh.
+    Defined.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v:278]:
```suggestion
    Qed.
```

File: UniMath/Induction/M/MWithSets.v [hunk 29]
```diff
@@ -0,0 +1,415 @@
...
+        + use funextsec. intro. apply isapropishinh.
+      - unfold functor_compax.
+        intros.
+        use total2_paths_f.
+        + assert (p : ∏ x : pr1 a, pr1 (# functor_coalgebra_UU_to_HSET_data (f · g)) (settruncin _ x)=
+                                     pr1 (# functor_coalgebra_UU_to_HSET_data f · # functor_coalgebra_UU_to_HSET_data g) (settruncin _ x)).
+          { intro x. apply idpath. }
+          apply (settrunc_rec_unique _ _ _ p).
+        + use funextsec. intro. apply isapropishinh.
+    Defined.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v:353]:
```suggestion
    Qed.
```

File: UniMath/Induction/M/MWithSets.v [hunk 30]
```diff
@@ -0,0 +1,415 @@
...
+    Proof.
+      unfold is_nat_trans.
+      intros.
+      cbn  -[F F' functor_coalgebra_UU_to_HSET functor_coalgebra_HSET_to_UU].
+      use total2_paths_f.
+      - cbn -[F F' settrunc].
+        use settrunc_rec_unique.
+        intro. apply idpath.
+      - use funextsec. intro. apply isapropishinh.
+    Defined.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v:421]:
```suggestion
    Qed.
```

File: UniMath/Induction/M/MWithSets.v [hunk 31]
```diff
@@ -0,0 +1,415 @@
...
+
+    Lemma adj_unit_coalg_is_nat_trans : is_nat_trans _ _ adj_unit_coalg_data.
+    Proof.
+      unfold is_nat_trans.
+      intros.
+      cbn -[F F' functor_coalgebra_UU_to_HSET functor_coalgebra_HSET_to_UU].
+      use total2_paths_f.
+      - apply idpath.
+      - use funextsec. intro. apply isapropishinh.
+    Defined.
```
Comment (nmvdw) [inline UniMath/Induction/M/MWithSets.v:383]:
```suggestion
    Qed.
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 32]
```diff
@@ -0,0 +1,227 @@
...
+
+Local Definition C'1 : FunctorCoalgebras.CoAlg_category F'
+  := ComputationalMWithSets.C' B C' C'_isfinal.
+Local Definition C'1_isfinal : isTerminal (CoAlg_category F') C'1
+  := ComputationalMWithSets.finalC' B C' C'_isfinal.
+Local Definition corec_C1 := ComputationalMWithSets.corecC B C' C'_isfinal.
+Local Definition c1 : UU := pr11 C'1.
+Local Definition destr_c1 : c1 -> F c1 := pr2 C'1.
+
+Definition Get_subtrees_list_rec_step (t0 : c1) (acc : list c1) : list c1
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_subtrees_list_rec_step (t0 : c1) (acc : list c1) : list c1
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 33]
```diff
@@ -0,0 +1,227 @@
...
+  := match destr_c1 t0 with
+     | (ii1 _,, _) => acc
+     | (ii2 _,, f) => cons (f (ii1 tt)) (cons (f (ii2 tt)) acc)
+     end.
+
+Definition Get_subtrees_list_at_depth (t : c1) (depth : nat) : list c1.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_subtrees_list_at_depth (t : c1) (depth : nat) : list c1.
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 34]
```diff
@@ -0,0 +1,227 @@
...
+  induction depth.
+  - exact (cons t nil).
+  - exact (list_ind
+             (λ _, list c1)
+             nil
+             (λ t0 _ acc, Get_subtrees_list_rec_step t0 acc)
+             IHdepth).
+Defined.
+
+Definition Get_labels_list_rec_step (t0 : c1) (acc : list bool) : list bool
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_labels_list_rec_step (t0 : c1) (acc : list bool) : list bool
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 35]
```diff
@@ -0,0 +1,227 @@
...
+  := match destr_c1 t0 with
+     | (ii1 _,, _) => acc
+     | (ii2 b,, _) => cons b acc
+     end.
+
+Definition Get_labels_list_at_depth (t : c1) (depth : nat) : list bool.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_labels_list_at_depth (t : c1) (depth : nat) : list bool.
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 36]
```diff
@@ -0,0 +1,227 @@
...
+  set (l := Get_subtrees_list_at_depth t depth).
+  exact (list_ind
+           (λ _, list bool)
+           nil
+           (λ t0 _ acc, Get_labels_list_rec_step t0 acc)
+           l).
+Defined.
+
+(* Full tree only labeled true *)
+Definition t0 : c1.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]: This definition should have a more informative name

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 37]
```diff
@@ -0,0 +1,227 @@
...
+  apply idpath.
+Defined.
+
+(*       true
+        /    \
+     false   true
+    /       /    \
+  true   true   false
+*)
+Definition t1 : c1.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]: This definition should have a more informative name

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 38]
```diff
@@ -0,0 +1,227 @@
...
+
+(* Note though that the refinement of ComputationalM is needed to have
+   proofs by idpath. *)
+Local Definition C : coalgebra F := MWithSets.C0 B C'.
+Local Definition C_isfinal : is_final C := MWithSets.C0_is_final B C' C'_isfinal.
+Local Definition corec_C := ComputationalM.corecM0 _ _ C C_isfinal.
+Local Definition c : UU := pr1 C.
+Local Definition destr_c : c -> F c := pr2 C.
+
+Definition Get_subtrees_list_rec_step_alt (t0 : c) (acc : list c) : list c
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_subtrees_list_rec_step_alt (t0 : c) (acc : list c) : list c
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 39]
```diff
@@ -0,0 +1,227 @@
...
+  := match destr_c t0 with
+     | (ii1 _,, _) => acc
+     | (ii2 _,, f) => cons (f (ii1 tt)) (cons (f (ii2 tt)) acc)
+     end.
+
+Definition Get_subtrees_list_at_depth_alt (t : c) (depth : nat) : list c.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_subtrees_list_at_depth_alt (t : c) (depth : nat) : list c.
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 40]
```diff
@@ -0,0 +1,227 @@
...
+  induction depth.
+  - exact (cons t nil).
+  - exact (list_ind
+             (λ _, list c)
+             nil
+             (λ t0 _ acc, Get_subtrees_list_rec_step_alt t0 acc)
+             IHdepth).
+Defined.
+
+Definition Get_labels_list_rec_step_alt (t0 : c) (acc : list bool) : list bool
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_labels_list_rec_step_alt (t0 : c) (acc : list bool) : list bool
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 41]
```diff
@@ -0,0 +1,227 @@
...
+  := match destr_c t0 with
+     | (ii1 _,, _) => acc
+     | (ii2 b,, _) => cons b acc
+     end.
+
+Definition Get_labels_list_at_depth_alt (t : c) (depth : nat) : list bool.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]:
```suggestion
Definition get_labels_list_at_depth_alt (t : c) (depth : nat) : list bool.
```

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 42]
```diff
@@ -0,0 +1,227 @@
...
+  set (l := Get_subtrees_list_at_depth_alt t depth).
+  exact (list_ind
+           (λ _, list bool)
+           nil
+           (λ t0 _ acc, Get_labels_list_rec_step_alt t0 acc)
+           l).
+Defined.
+
+(* In some simple cases we do have a proof by idpath *)
+Definition t0_alt : c.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]: A more informative name would be good

File: UniMath/Induction/M/BinaryBooleanMTrees.v [hunk 43]
```diff
@@ -0,0 +1,227 @@
...
+                                                        | ii2 _ => 4
+                                                        end : c)
+                       | 3 => (ii2 true,, λ _, 5)
+                       | 4 => (ii2 false,, λ _, 5)
+                       | _ => (ii1 tt,, λ _, 5)
+                       end : F c).
+  exact (c,, s_c).
+Defined.
+
+Definition t1_alt : c.
```
Comment (nmvdw) [inline UniMath/Induction/M/BinaryBooleanMTrees.v]: A more informative name would be good

File: UniMath/Induction/M/ComputationalMWithSets.v (hunk 20 above)
Comment (AextraT) [reply UniMath/Induction/M/ComputationalMWithSets.v]: Because I thought their names did not give enough context by themselves but still longer names would not suit.

File: UniMath/Induction/M/ComputationalMWithSets.v (hunk 21 above)
Comment (AextraT) [reply UniMath/Induction/M/ComputationalMWithSets.v:26]: It does not compile with Require Import, there are conflicts with FunctorCoalgebras_legacy.

File: UniMath/Induction/M/ComputationalMWithSets.v (hunk 22 above)
Comment (AextraT) [reply UniMath/Induction/M/ComputationalMWithSets.v]: Since they are used many times in this section, I think it's clearer if they are.

File: UniMath/Induction/M/FinalCoalgebraHSET.v (hunk 23 above)
Comment (AextraT) [reply UniMath/Induction/M/FinalCoalgebraHSET.v]: It is, I thought I already rectified that my bad.

File: UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v (hunk 2 above)
Comment (AextraT) [reply UniMath/CategoryTheory/Chains/OmegaContPolynomialFunctors.v:43]: No good reason for that, I'm changing for the easier proof.

File: UniMath/Induction/M/ComputationalMWithSets.v (hunk 20 above)
Comment (nmvdw) [reply UniMath/Induction/M/ComputationalMWithSets.v]: By making them `Local`, one has to refer to them as `Upstream.<identifier>`. If you don't want these identifiers to be accessible outside of this section, you can less `Let`

File: UniMath/Induction/M/ComputationalMWithSets.v (hunk 22 above)
Comment (rmatthes) [reply UniMath/Induction/M/ComputationalMWithSets.v]: I think one can omit the prefix `UniMath.CategoryTheory`.

File: UniMath/Induction/FunctorCoalgebras_legacy_alt_UU.v [hunk 44]
```diff
@@ -0,0 +1,140 @@
...
+
+Definition coalgebra : UU := ∑ X : type_precat, X --> F X.
+
+Definition coalgebra_ob (X : coalgebra) : type_precat := pr1 X.
+Local Coercion coalgebra_ob : coalgebra >-> ob.
+
+Definition coalgebra_mor (X : coalgebra) : type_precat ⟦X, F X ⟧ := pr2 X.
+
+(** A homomorphism of F-coalgebras (F A, α : C ⟦A, F A⟧) and (F B, β : C ⟦B, F B⟧)
+    is a morphism f : C ⟦A, B⟧ s.t. the below diagram commutes.
```
Comment (rmatthes) [inline UniMath/Induction/FunctorCoalgebras_legacy_alt_UU.v]: better say that the diagram will get a specific interpretation: pointwise propositionally truncated equality
